US06066742
1.24 g (3.0 mmole) of (3S)-3-acetoxymethyl-5-amino-6-benzyloxy-1-t-butoxycarbonylindoline, 0.46 g (4.5 mmole) of methyl pyruvate, and 0.2 ml of acetic acid were heated to reflux in 30 ml of benzene for 5 hours using a Dean-Stark apparatus (Chem.Pharm.Bull. 24,1273 (1976)). The reaction mixture was washed with 5% sodium bicarbonate aqueous solution, dried over anhydrous sodium sulfate, and filtrated. The obtained filtrate was concentrated to give a residue, to which 1.35 g (6.0 mmole) of palladium acetate was then added, and the resulting mixture was heated in 100 ml of dimethylacetamide at 90° C. for 1 hour. The obtained reaction mixture was poured into water, the resulting mixture was thrice extracted with toluene-hexane (5:1), the combined organic layer was dried over anhydrous sodium sulfate, and filtrated. The obtained filtrate was concentrated to give a residue, which was then purified by silica gel column chromatography with changing an eluate from hexane:ethyl acetate (3:1) to hexane:ethyl acetate (2.5:1) to give 0.15 g of methyl (1S)-1-acetoxymethyl-5-benzyloxy-3-t-butoxycarbonyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate. Yield, 10%. This sample gave the same spectroscopic data as those obtained in Example 2.

reactant | (3S)-3-acetoxymethyl-5-amino-6-benzyloxy-1-t-butoxycarbonylindoline | 3.0 mmole, 1.24 g | C(C)(=O)OC[C@@H]1CN(C2=CC(=C(C=C12)N)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O5
reactant | methyl pyruvate | 4.5 mmole, 0.46 g | C(C(=O)C)(=O)OC | C4H6O3
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
catalyst | palladium acetate | 6.0 mmole, 1.35 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl (1S)-1-acetoxymethyl-5-benzyloxy-3-t-butoxycarbonyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate | 0.15 g | C(C)(=O)OC[C@@H]1CN(C=2C1=C1C=C(NC1=C(C2)OCC2=CC=CC=C2)C(=O)OC)C(=O)OC(C)(C)C | C27H30N2O7
